US07985862B2
(Step 1) A suspension of 2,5-difluorobenzonitrile (12.4 g), methanesulfonamide (9.3 g) and potassium carbonate (13.6 g) in DMSO (360 ml) was stirred overnight at 120° C. The reaction solution was poured into 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure. The residue was crystallized from ethyl acetate-hexane to give N-(2-cyano-4-fluorophenyl]methanesulfonamide (6.57 g) as a white solid.

reactant | 2,5-difluorobenzonitrile | 12.4 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | methanesulfonamide | 9.3 g | CS(=O)(=O)N | CH5NO2S
reactant | potassium carbonate | 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMSO | 360 ml | CS(=O)C | C2H6OS
product | N-(2-cyano-4-fluorophenyl]methanesulfonamide | 6.57 g | C(#N)C1=C(C=CC(=C1)F)NS(=O)(=O)C | C8H7FN2O2S
